US06506901B2
Step B: Methyl 6-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)-nicotinate
Prepared from N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide (0.119 g, 0.48 mmol), 1-(3-methoxycarbonyl-2-pyridyl)-4-formylpiperidine (0.12 g, 0.48 mmol), glacial acetic acid (0.03 g, 0.48 mmol) and sodium cyanoborohydride (0.03 g, 0.48 mmol) according to the procedure used for example 67 (Step B) to give 0.077 g of the title compound as a yellow solid (isolated as the HCl salt).

reactant | N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide | 0.48 mmol, 0.119 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | 1-(3-methoxycarbonyl-2-pyridyl)-4-formylpiperidine | 0.48 mmol, 0.12 g | COC(=O)C=1C(=NC=CC1)N1CCC(CC1)C=O | C13H16N2O3
reactant | acetic acid | 0.48 mmol, 0.03 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.48 mmol, 0.03 g | C(#N)[BH3-].[Na+]
product | Methyl 6-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)-nicotinate | 0.077 g | O[C@@H](CNCC1CCN(CC1)C1=NC=C(C(=O)OC)C=C1)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C22H30N4O6S
